US08003649B2
Ethanesulfonyl chloride (0.024 g, 0.19 mmol) and then dichloromethane (0.5 mL) were added sequentially to a mixture of diisopropylethylamine (0.044 g, 0.34 mmol) and 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (0.050 g, 0.17 mmol) in toluene (1.5 mL). The reaction mixture was stirred for 1 hour at ambient temperature and then for 1.5 hours at 50° C. and then evaporated to give an involatile residue. The residue was purified by preparative hplc using a Phenomenex Luna C18 100A column (10μ silica, 21 mm diameter, 150 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% trifluoroacetic acid) and acetonitrile as eluents to give 6-(5-ethylsulfonyl-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrol-2-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine (0.0143 g, 22%) as a white solid.

reactant | Ethanesulfonyl chloride | 0.19 mmol, 0.024 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | diisopropylethylamine | 0.34 mmol, 0.044 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.17 mmol, 0.050 g | C1N(CC2C1CNC2)C=2C=CC=1N(N2)C(=NN1)C(F)(F)F | C12H13F3N6
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(5-ethylsulfonyl-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrol-2-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine | 0.0143 g, 22% | C(C)S(=O)(=O)N1CC2C(C1)CN(C2)C2=NN1C(C=C2)=NN=C1C(F)(F)F | C14H17F3N6O2S
